US05011947
Ethyl 2-ethyl-3,3-bis(4-fluorophenyl)propenoate
A mixture of ethyl 2-ethyl-3,3-bis(4-fluorophenyl)-3-hydroxypropionate (1.0 g, 3.0 mmol) and p-toluenesulfonic acid (0.2 g) in 100 mL toluene was heated at reflux for 1.25 hours. The mixture was cooled and washed with saturated sodium bicarbonate solution and water. The solution was dried with magnesium sulfate and concentrated in vacuo. The residue was crystallized from petroleum ether to give 0.85 g of the title compound; m.p. =57°-59° C.

reactant | ethyl 2-ethyl-3,3-bis(4-fluorophenyl)-3-hydroxypropionate | 3.0 mmol, 1.0 g | C(C)C(C(=O)OCC)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C19H20F2O3
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-ethyl-3,3-bis(4-fluorophenyl)propenoate | 0.85 g | C(C)C(C(=O)OCC)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C19H18F2O2
